US08242139B2
1-(oxazol-2-yl)cyclopentanol
An ambient solution of oxazole (1.00 g, 14.5 mmol) and borane.tetrahydrofuran complex (14.5 mL, 14.5 mmol, 1 M in tetrahydrofuran) was stirred for 30 min. The reaction was cooled to −78° C., and n-butyllithium (9.5 mL, 15.2 mmol, 1.6 M in hexane) was added dropwise. After 30 minutes, cyclopentanone (1.42 mL, 16.0 mmol) was added dropwise. After 30 minutes, the cold (−78° C.) reaction was quenched by the addition of 5% acetic acid in ethanol (70 mL) and warmed to room temperature. The solution was diluted with diethyl ether (10 0 mL) and saturated NaHCO3 (50 mL). Layers were separated, and the organics were washed with brine (1×50 mL), dried over Na2SO4, concentrated, under reduced pressure, and purified by chromatography on SiO2 gel, eluting with 50% ethyl acetate in hexane, to give the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.59-1.71 (m, 2H), 1.72-1.84 (m, 2H), 1.84-1.96 (m, 2H), 1.98-2.09 (m, 2H), 5.40 (s, 1H), 7.11 (s, 1H), 8.02 (s, 1H).

reactant | oxazole | 14.5 mmol, 1.00 g | O1C=NC=C1 | C3H3NO
reactant | borane | B | BH3
reactant | tetrahydrofuran | 14.5 mmol, 1 M, 14.5 mL | O1CCCC1 | C4H8O
reactant | n-butyllithium | 15.2 mmol, 1.6 M, 9.5 mL | C(CCC)[Li]
reactant | cyclopentanone | 16.0 mmol, 1.42 mL | C1(CCCC1)=O | C5H8O
product | 1-(oxazol-2-yl)cyclopentanol | O1C(=NC=C1)C1(CCCC1)O | C8H11NO2
